US08080546B2
Synthesis of N-Cyclopropyl-3-(1-(3-fluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-4-methylbenzamide
In sealed a glass tube, a mixture of potassium phosphate tribasic (251 mg, 1.18 mmol), tris(dibenzylideneacetone)dipalladium (0) (14 mg, 0.015 mmol), N-cyclopropyl-3-hydroxy-4-methylbenzamide (136 mg, 0.71 mmol), 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′-biphenyl (14 mg, 0.032 mmol) and 4-chloro-1-(3-fluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (164 mg, 0.59 mmol) in THF (0.5 mL) and toluene (1.30 mL) was heated at 110° C. in an oil bath for 18 h. The reaction mixture was cooled to RT, quenched with saturated ammonium chloride, and extracted twice with EtOAc. The combined EtOAc layers were washed with brine, dried and concentrated. The resulting crude material was purified on an ISCO (12 g column) eluting with a solvent gradient of 50-90% EtOAc in hexanes, to afford the title compound as a tan amorphous solid. MS (ESI, pos.ion) m/z: 433.0 (M+1).

reactant | potassium phosphate tribasic | 1.18 mmol, 251 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N-cyclopropyl-3-hydroxy-4-methylbenzamide | 0.71 mmol, 136 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)O)=O | C11H13NO2
reactant | 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′-biphenyl | 0.032 mmol, 14 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C(C)(C)C | C29H45P
reactant | 4-chloro-1-(3-fluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.59 mmol, 164 mg | ClC=1C2=C(N(C(C1)=O)C)N(N=C2)C2=CC(=CC=C2)F | C13H9ClFN3O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | toluene | 1.30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.015 mmol, 14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Cyclopropyl-3-(1-(3-fluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)OC=1C2=C(N(C(C1)=O)C)N(N=C2)C2=CC(=CC=C2)F)=O | C24H21FN4O3
